Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors / ___ Receptor Antagonist
 
Attending: ___.
 
Chief Complaint:
chest pain, lightheadedness, toe gangrene
 
Major Surgical or Invasive Procedure:
___ Right foot partial ___ ray amputation

 
History of Present Illness:
Mr. ___ is a ___ with a history of NICM (EF ___, 
AF/SSS/VT on amiodarone s/p ICD to CRT (___), ESRD on HD, PVD 
with left hallux dry gangrene presenting after episode of chest 
tightness, lightheadedness, and weakness after dialysis. After 
his last dialysis session (during which 1L was removed), the 
patient had 30 min of chest tightness. This was associated with 
shortness of breath, palpitations, and weakness that lasted 2 
hours. He also endorsed lightheadedness when standing and blurry 
vision, which have since resolved.

The patient came to the ED, where a pacemaker interrogation was 
performed by EP, demonstrating normal pacer function with 98.6% 
AS-VP. Troponin was 0.14 and MB was 5. Cardiology recommended 
admission, but the patient left AMA to take his daughter to an 
appointment. He returned shortly thereafter and agreed to be 
admitted.

The patient also has a chronic non-healing left great toe wound 
that has been painful for the past 10 months and has become more 
swollen and productive of yellow discharge over the past week. 
He was evaluated by podiatry and planned for a partial 
amputation.

In the ED, initial VS were 98.2 78 128/69 15 97RA. Exam was 
notable for RRR, clear lungs, necrotic toe with brisk pulse, 
swelling with mild erythema, no tenderness or visible discharge.

Labs were:

139  93  19    
--------------< 87
3.2  30  3.7   
               93 
6.9 > 10.7/35 <116
 
CK: 115  MB: 5

N:79.0 L:6.6 M:10.8 E:2.6 Bas:0.7 ___: 0.3 Absneut: 5.46 
Abslymp: 0.46 Absmono: 0.75 Abseos: 0.18 Absbaso: 0.05  

___: 46.4  PTT: 51.0  INR: 4.2

Foot radiograph showed no evidence of acute osteomyelitis. CXR 
showed stable cardiomegaly, resolution of retrocardiac opacity, 
and pacemaker placement unchanged. ECG showed no evidence of 
ischemia. Patient received vancomycin 1000mg and 
Piperacillin-Tazobactam 4.5 g. Blood cultures sent. Transfer VS 
were 97.7 67 116/68 16 100%RA. Podiatry was consulted and 
planned partial right toe amputation for the following day, and 
the patient was made NPO. Decision was made to admit to medicine 
for further management.
 
On arrival to the floor, patient denies chest pain or shortness 
of breath. He says he has only had one episode of chest 
tightness and shortness of breath many years ago. He sleeps at 
an incline and often wakes up with shortness of breath. He also 
says that in the last 9 months he has noticed decreased 
tolerance for walking, but attributes this to worsening leg pain 
from his PVD. The patient also denies pain in his foot, but says 
in the past week he has notice yellow discharge that he has 
never had before.

 
Past Medical History:
ESRD on HD
NICM (EF ___, thought to be due to HTN)
VT, LBBB, AF, SSS on amiodarone, s/p ICD (___) to CRT (___)
PVD s/p LLE angioplasty and stent ___
HTN
HLD
Parathyroidectomy c/b laryngeal nerve injury
Cholelithiasis s/p ERCP (___)
Pulm HTN
Thrombocytopenia
Anemia
Radiocephalic fistula aneurysm
 
Social History:
___
Family History:
Grandfather died of MI at ___
Father died of renal disease at ___
Mother had "heart problems"
Sister has DM and lupus
 
Physical Exam:
ADMISSION EXAM
====================
VS: 98.1 119/74 61 18 98RA
GENERAL: well appearing, thin man lying comfortably flat in bed  

HEENT: anicteric sclera, pink conjunctiva, no JVD, nontender 
supple neck 
HEART: RRR, normal S1/S2, ___ holosystolic murmur heard best at 
the apex and left sternal border
LUNGS: faint basilar crackles on the right, no wheezes or 
rhonchi, no use of accessory muscles
ABDOMEN: soft, NDNT, +BS, no HSM
EXTREMITIES: 1+ pitting edema bilaterally to patella; slight 
coolness in b/l ___ L>R; pulses palpable; L great toe with dry 
gangrene to the MTP, mild tenderness to palpation, serous 
discharge from plantar surface  
NEURO: Normal mental status. CN ___ grossly intact. Repositions 
in bed without weakness or ataxia.

DISCHARGE EXAM
====================
VS: 98.4 ___ 18 100%RA
GENERAL: well appearing, thin man lying comfortably flat in bed  

HEENT: anicteric sclera, pink conjunctiva, no JVD
HEART: RRR, ___ holosystolic murmur heard best at the apex and 
left sternal border. Pacemaker with no tenderness or erythema.
LUNGS: non-labored, CTAB
ABDOMEN: soft, NDNT, +BS, no HSM
EXTREMITIES: trace edema; slight coolness in b/l ___ L>R; pulses 
palpable; R foot wrapped with clean, dry, non-bloody bandages 
NEURO: Normal mental status. CN ___ grossly intact. Repositions 
in bed without weakness or ataxia.

 
Pertinent Results:
ADMISSION LABS
============================
___ 12:18AM BLOOD WBC-6.9 RBC-3.78* Hgb-10.7* Hct-35.0* 
MCV-93 MCH-28.3 MCHC-30.6* RDW-14.4 RDWSD-48.1* Plt ___
___ 12:18AM BLOOD Neuts-79.0* Lymphs-6.6* Monos-10.8 
Eos-2.6 Baso-0.7 Im ___ AbsNeut-5.46 AbsLymp-0.46* 
AbsMono-0.75 AbsEos-0.18 AbsBaso-0.05
___ 12:18AM BLOOD ___ PTT-51.0* ___
___ 12:18AM BLOOD Glucose-87 UreaN-19 Creat-3.7*# Na-139 
K-3.2* Cl-93* HCO3-30 AnGap-19
___ 12:18AM BLOOD ALT-23 AST-19 LD(LDH)-267* CK(CPK)-115 
AlkPhos-121 TotBili-0.7
___ 12:18AM BLOOD Calcium-7.6* Phos-3.4 Mg-1.9
___ 12:18AM BLOOD CRP-19.0*
___ 12:26AM BLOOD Lactate-0.9

CARDIAC MARKERS:
___ 12:18AM BLOOD CK-MB-5
___ 12:18AM BLOOD cTropnT-0.14*
___ 07:00AM BLOOD cTropnT-0.14*
___ 07:40AM BLOOD CK-MB-3 cTropnT-0.12*

DISCHARGE LABS
===========================
___ 07:40AM BLOOD WBC-9.1 RBC-3.57* Hgb-10.3* Hct-32.6* 
MCV-91 MCH-28.9 MCHC-31.6* RDW-13.9 RDWSD-46.4* Plt ___
___ 07:40AM BLOOD ___ PTT-41.9* ___
___ 07:40AM BLOOD Glucose-89 UreaN-32* Creat-5.0*# Na-138 
K-4.6 Cl-96 HCO3-29 AnGap-18
___ 07:40AM BLOOD Calcium-7.5* Phos-3.9 Mg-1.9

___ 07:24AM BLOOD %HbA1c-4.6 eAG-85

MICRO
===========================
Blood Culture, Routine (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH. 

STUDIES
============================
___ Chest (Pa & Lat)
1. Right pectoral pacemaker device is seen in unchanged position 
with leadsprojecting over the right atrium, right ventricle, and 
left ventricle.
2. Interval resolution of previously noted retrocardiac opacity 
from ___.
3. Stable cardiomegaly 

___ ECG
Atrial-sensed ventricular-paced rhythm. Stable from prior.

___ AP,LAT & OBL RIGHT
IMPRESSION:  
No definite radiographic evidence of acute osteomyelitis.  If 
clinical concern
is high, MRI is more sensitive.
Similar appearance of the big toe compared to prior studies, 
with degenerative
changes seen.
Subtle lucency projecting over the soft tissue at the level of 
the first
distal phalanx, but also seen on prior studies and is felt less 
likely to be
acute.  No definite soft tissue gas seen elsewhere.

___ AP,LAT & OBL RIGHT
FINDINGS:  
Compared to ___, the right first toe and distal 
portion of the
right first metatarsal bone have been resected.
Otherwise, doubt significant interval change.  No fracture or 
dislocation is
detected.  No new area of osteolysis identified.

___ Tissue: TOES, AMPUTATION, NON-TRAUMATIC
PATHOLOGIC DIAGNOSIS:
1. First toe, right foot, amputation: Gangrene; underlying bone 
without significant acute
inflammation.
2. Bone margin, first toe right foot, excision: Bone with 
reparative changes; patchy intramedullary fat
necrosis without significant acute inflammation. 

 
Brief Hospital Course:
___ with NICM (EF ___, AF/SSS/VT on warfarin and amiodarone 
s/p ICD to CRT, ESRD on HD, admitted for presyncope after 
dialysis and chronic dry gangrene of right hallux. 

# Presyncope
Likely orthostasis since occurred with standing after 1L removed 
at HD. Pacemaker interrogation was negative for arrhythmia. He 
had no further chest pain or palpitations during his 
hospitalization and there was no evidence of cardiac ischemia, 
decompensated heart failure, PE, TIA, or seizure.

# Right hallux dry gangrene
He also underwent a partial right hallux amputation for chronic 
dry gangrene. The patient remained afebrile and without exam or 
radiographic signs of infection. He received one dose of 
vancomycin and piperacillin/tazobactam in the ED, and was 
discharged on prophylactic amoxicillin/clavulanate for a 7 day 
course per Podiatry with close Podiatry f/u, ___ for wound care, 
and home ___. Bone pathology and cultures were pending at 
discharge.

# Atrial fibrillation with sick sinus syndrome
# h/o ventricular tachycardia
Patient was recently admitted for ICD shock for VT due to 
patient not taking amiodarone. Rate and rhythm now well 
controlled on home amiodarone and metoprolol. ICD interrogation 
several days prior to admission non-concerning.

# Supratherapeutic anticoagulation
INR 4.2 on admission. Given VitK ___ preoperatively. Warfarin 
restarted ___. INR 2.2 at discharge (goal ___, closer to 2 
given triple therapy).

# Non-ischemic dilated cardiomyopathy / chronic systolic heart 
failure (EF ___
No evidence for acute exacerbation. Pacemaker interrogation 
found no dysfunction or arrhythmias. Volume status was managed 
with HD, and home metoprolol was continued. Patient not on 
___ due to reported allergy.

# Peripheral vascular disease s/p angioplasty and stent
Had recent balloon angioplasty and stent of anterior and 
posterior tibial arteries (___). No acute ischemic symptoms. 
Home meds were continued (ASA, clopidogrel, atorva 80).

# ESRD on HD
No indications for emergent dialysis. Nephrology was consulted 
and patient received scheduled HD. Home VitD was continued and 
nephrocaps started. Calcium acetate was stopped since 
calcium-phosphate product was low.

# h/o cefazolin hepatotoxicity ___
Resolved -- repeat LFTs this admission normal.

# Anxiety
Patient endorsed severe daily anxiety and stress regarding his 
health problems and medication side effects, which appears to be 
contributing to his poor adherence and follow-up. He declined 
counseling or medication this admission, but would be interested 
in seeking psychiatric care as an outpatient.

TRANSITIONAL ISSUES:
=====================
-Please draw INR at ___ appointment on ___. Patient will 
also have INR drawn at dialysis on ___. Warfarin 
held, then decreased from 4mg to 3mg. INR 2.2 on day of 
discharge. 
-Wound care: keep dressing clean, dry, and intact until Podiatry 
f/u.
-Abx: discharged on empiric amoxicillin/clavulanate for a 7-day 
course (d1= ___ pending bone biopsy cultures.
-Calcium acetate stopped prior to hospitalization
-Fistula aneurysm: f/u with transplant surgery scheduled 
___ 
-Anxiety: significant symptoms that appear to interfere 
w/medication adherence and f/u. Declined counseling and 
medication. Please continue to offer.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Amiodarone 200 mg PO DAILY 
3. Warfarin 4 mg PO DAILY16 
4. Atorvastatin 80 mg PO QPM 
5. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

6. Clopidogrel 75 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Nephrocaps 1 CAP PO DAILY 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheezing 
10. Calcium 600 + D(3) (calcium carbonate-vitamin D3) unknown 
unknown oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth TID:PRN Disp #*180 
Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q24H 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth Daily Disp #*6 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth BID:PRN Disp 
#*60 Capsule Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth BID:PRN Disp #*60 
Tablet Refills:*0 
5.  TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth q8h:PRN Disp #*21 Tablet 
Refills:*0 
6.  Warfarin 3 mg PO DAILY16 
RX *warfarin 1 mg 3 tablet(s) by mouth daily Disp #*180 Tablet 
Refills:*0 
7.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheezing  
8.  Amiodarone 200 mg PO DAILY  
9.  Aspirin 81 mg PO DAILY  
10.  Atorvastatin 80 mg PO QPM  
11.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) unknown  
oral DAILY  
12.  Clopidogrel 75 mg PO DAILY  
13.  Metoprolol Succinate XL 25 mg PO DAILY  
14.  Nephrocaps 1 CAP PO DAILY  
15.Standard walker
Dx: ICD10: S98 Amputation R great toe 
Px: Good
___: 13 months 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Right hallux dry gangrene status post partial amputation
Presyncope

SECONDARY DIAGNOSES:
Chronic systolic heart failure / non-ischemic dilated 
cardiomyopathy
Chronic renal failure / end-stage renal disease
Supratherapeutic anticoagulation
Peripheral vascular disease status post angioplasty and stent
Chronic atrial fibrillation and sick sinus syndrome status post 
implantable cardiac defibrillator placement
History of ventricular tachycardia
Fistula aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Estimado Sr. ___,

Usted fue internado ___ hospital por mareos y palpitaciones. 
___ y ___ cardiaco y no 
encontramos ningun problema, y sus sintomas se resolvieron.

Tambien tuvo una cirugia para ___ 
___ fue bien. No encontramos ninguna infeccion. 

Instrucciones:
- ___ citas con ___ medico de atencion ___ 
___. Por favor no ___.
- ___ limpio y seco ___ con el 
___. No cambie el ___.
- Siga tomando ___ recetados.
- No dude en llamar a sus medicos o ___ hospital si tiene 
fiebre, escalofrios, dolor ___ no se controla con ___, 
o cualquier sintoma ___. 

___ una recuperacion rapida!

Atentamente,
___ medico de ___
Dear Mr. ___,

You were admitted to the hospital for dizziness and 
palpitations. We check your pacemaker and monitored your heart 
rate and found no abnormalities, and your symptoms resolved.

You also had surgery to remove your injured toe. The procedure 
went well. We found no infection.

Instructions from when you leave the hospital:
- We made appointments for you with your primary care doctor and 
podiatrist. Please do not miss them.
- Keep your foot bandage clean and dry until your appointment 
with the podiatrist. Do not change the bandage.
- Continue to take all of your medications as prescribed.
- Do not hesitate to call your doctors ___ return to the hospital 
if you have fever, chills, pain that is not controlled with 
medications, or any symptoms that concern you.

We wish you a speedy recovery!

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___